US08471005B2
[7-(3-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-pyridin-3-yl-phenyl)-amine was prepared from 7-(3-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol and 4-pyridin-3-yl-phenylamine in an analogous manner to Example 1052a. Product isolated as a yellow solid (66 mg, 49%). m.p.=216-218° C.; LCMS (m/e) 442 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.87 (s, 1H), 8.79 (s, 1H), 8.71 (s, 1H), 8.56 (d, 1H, J=4.3 Hz), 8.42 (d, 1H, J=7.9 Hz), 7.95 (d, 1H, J=7.8 Hz), 7.90 (d, 1H, J=8.0 Hz), 7.78-7.68 (m, 3H), 7.64 (d, 2H, J=8.6 Hz), 7.36 (dd, 1H, J=4.9 and 7.7 Hz), 7.09 (d, 1H, J=4.8 Hz), 6.98 (s, 1H), 6.90 (d, 1H, J=4.8 Hz), 3.08 (s, 3H).

reactant | 7-(3-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)O | C13H11N3O3S
reactant | 4-pyridin-3-yl-phenylamine | N1=CC(=CC=C1)C1=CC=C(C=C1)N | C11H10N2
product | [7-(3-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-pyridin-3-yl-phenyl)-amine | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C=2C=NC=CC2 | C24H19N5O2S
